US06468995B1
To a solution of diphenylmethyl 7β-formamido-3-methanesulfonyloxy-3-cephem-4-carboxylate (1 g) in DMF (10 ml) was added sodium salt of 5-mercapto-1,2,3-thiadiazole (445 mg) at −30° C. After being stirred at −20° C. for 1 hour, the mixture was poured into a mixture of ice water and ethyl acetate. The organic layer was separated washed with water and brine, dried over magnesium sulfate, and evaporated to give diphenylmethyl 7β-formamido-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate (961 mg).

reactant | diphenylmethyl 7β-formamido-3-methanesulfonyloxy-3-cephem-4-carboxylate | 1 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O7S2
reactant | sodium | [Na] | Na
reactant | 5-mercapto-1,2,3-thiadiazole | 445 mg | SC1=CN=NS1 | C2H2N2S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | diphenylmethyl 7β-formamido-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate | 961 mg | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18N4O4S3
